US05051534
Mercury diacetate (0.33 g, 1.03 mmol) was added to a solution of 4,8,13,17,21-pentamethyl-4,8,12,16,20-docosapentaen-1-ol (2.00 g, 5.17 mmol) in 50 ml of ethyl vinyl ether and the reaction refluxed overnight. The reaction was poured into 350 ml of water and extracted with ether. Theether extracts were washed with brine and dried over magnesium sulfate. Removal of the ether in vacuo gave the crude material which was purified by flash chromatography usin9 95/5 (hexane/ethyl acetate), to give 1.69 g of 4,8,13,17,21-pentamethyl-4,8,11,16,20-docosapentaen-1-ol vinyl ether.

reactant | 4,8,13,17,21-pentamethyl-4,8,12,16,20-docosapentaen-1-ol | 5.17 mmol, 2.00 g | CC(CCCO)=CCCC(=CCCC=C(CCC=C(CCC=C(C)C)C)C)C | C27H46O
reactant | water | 350 ml | O | H2O
reactant | ethyl vinyl ether | 50 ml | C(=C)OCC | C4H8O
catalyst | Mercury diacetate | 1.03 mmol, 0.33 g | C(C)(=O)[O-].C(C)(=O)[O-].[Hg+2]
product | 4,8,13,17,21-pentamethyl-4,8,11,16,20-docosapentaen-1-ol vinyl ether | 1.69 g | C(=C)OCCCC(=CCCC(=CCC=CC(CCC=C(CCC=C(C)C)C)C)C)C | C29H48O
